US06426345B1
To a solution of 2-methyl-4-(3-aminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (7.4 g) and triethylamine (5.72 ml) in dioxane was added 3,5-dichlorobenzoyl chloride (6.14 g) in dropwise. The mixture was stirred for 3 hours at room temperature. The reaction mixture was quenched by water and extracted with ethyl acetate (100 ml). The crude product was purified by chromatography to obtain 2-methyl-4-[3-(3,5-dichlorobenzoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (4.4 g).

reactant | 2-methyl-4-(3-aminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 7.4 g | CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)N)N=CC=C2 | C14H12N4O
reactant | triethylamine | 5.72 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 6.14 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-methyl-4-[3-(3,5-dichlorobenzoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 4.4 g | CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)N=CC=C2 | C21H14Cl2N4O2
